US04621084
5-(3,6-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone (1.85 g) was prepared in substantially the same manner as that of Example 30 from 5-(2-bromopropionyl)-3-methyl-2-benzoxazolinone (2.3 g) and 2-amino-5-methylpyridine (2.6 g). mp. 247°-249° C.

reactant | 5-(2-bromopropionyl)-3-methyl-2-benzoxazolinone | 2.3 g | BrC(C(=O)C=1C=CC2=C(N(C(O2)=O)C)C1)C | C11H10BrNO3
reactant | 2-amino-5-methylpyridine | 2.6 g | NC1=NC=C(C=C1)C | C6H8N2
product | 5-(3,6-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone | 1.85 g | CC1=C(N=C2N1C=C(C=C2)C)C=2C=CC1=C(N(C(O1)=O)C)C2 | C17H15N3O2
